US05977178
(2R)-2-(N-tert-Butoxycarbonyl-N-methylamino)-3-(2-fluorophenyl)propionic acid as a dicyclohexylammonium salt (5.57 g; 18.73 mmol) was dissolved in methylene chloride (30 mL) and washed with an aqueous solution of sodium hydrogen sulfate (10%; 30 mL). The organic phase was dried (magnesium sulfate) and filtered. 1-Hydroxybenzotriazole hydrate (2.53 g; 18.73 mmol) and N-(3-dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride (3.75 g; 19.6 mmol) were added to the filtrate and the mixture was stirred for 15 min at room temperature. Methylamine (40% in methanol; 0.53 g; 17.0 mmol) and diisopropylethylamine (3.2 mL; 18.7 mmol) were added and the reaction mixture was stirred for 12 hours at room temperature. The reaction mixture was washed with an aqueous solution of sodium hydrogen carbonate (50 mL) and an aqueous solution of sodium hydrogen sulfate (10%; 50 mL) and dried (magnesium sulfate). The solvent was removed in vacuo and the residue was chromatographed on silica (3.5×40 cm) using ethyl acetate/heptane (2:1) as eluent to afford 2.4 g of N-((1R)-2-(2-Fluorophenyl)-1-(methylcarbamoyl)ethyl)-N-methylcarbamic acid tert-butyl ester.

reactant | (2R)-2-(N-tert-Butoxycarbonyl-N-methylamino)-3-(2-fluorophenyl)propionic acid | C(C)(C)(C)OC(=O)N(C)[C@@H](C(=O)O)CC1=C(C=CC=C1)F | C15H20FNO4
reactant | dicyclohexylammonium salt | 18.73 mmol, 5.57 g | CCCCC(C(CC[C@H]1[C@@H](CC(=O)[C@@H]1CCCCCCC(=O)O)O)O)(F)F.C1CCC(CC1)NC2CCCCC2
reactant | 1-Hydroxybenzotriazole hydrate | 18.73 mmol, 2.53 g | O.ON1N=NC2=C1C=CC=C2
reactant | N-(3-dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride | 19.6 mmol, 3.75 g | Cl.CN(CCCN=C=NCC)C
reactant | Methylamine | 17.0 mmol, 0.53 g | CN | CH5N
reactant | diisopropylethylamine | 18.7 mmol, 3.2 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
product | N-((1R)-2-(2-Fluorophenyl)-1-(methylcarbamoyl)ethyl)-N-methylcarbamic acid tert-butyl ester | 2.4 g | C(C)(C)(C)OC(N(C)[C@H](CC1=C(C=CC=C1)F)C(NC)=O)=O | C16H23FN2O3
